US06814761B1
2. Preparation of 1-(N-cyclooctylamino)-2-nitro-4-aminobenzene
A mixture of 3.12 g (0.020 mol) of 4-fluoro-3-nitroaniline, 2.57 g (0.022 mol) of cyclooctylamine and 1.7 g (0.020 mol) of sodium hydrogen carbonate was refluxed for 3 hours in 5 ml of water and 5 ml of 2-propanol. After cooling to room temperature, the residues were filtered off and the filtrate was extracted with chloroform. The solvent was removed in vacuo and the residue was recrystallized from 20% hydrochloric acid. A yellow-green solid melting at 161° C. was obtained.

reactant | 4-fluoro-3-nitroaniline | 0.020 mol, 3.12 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | cyclooctylamine | 0.022 mol, 2.57 g | C1(CCCCCCC1)N | C8H17N
reactant | sodium hydrogen carbonate | 0.020 mol, 1.7 g | C(O)([O-])=O.[Na+]
solvent | water | 5 ml | O | H2O
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 1-(N-cyclooctylamino)-2-nitro-4-aminobenzene | C1(CCCCCCC1)NC1=C(C=C(C=C1)N)[N+](=O)[O-] | C14H21N3O2
